**********************
* Library for FEFETs
**********************

***************************************************************
*** Copyright @ 2015, ICDL, The Pennsylvania State University
***
*** The terms under which the software and associated 
*** documentation are provided :
***
*** The Software is provided "as is", without warranty of any 
*** kind, express or implied, including but not 
*** limited to the warranties of merchantability, fitness for a 
*** particular purpose and noninfringement. 
*** 
*** In no event shall the authors or copyright holders be liable 
*** for any claim, damages or other liability, 
*** whether in an action of contract, tort or otherwise, arising 
*** from, out of or in connection with the 
*** Software or the use or other dealings in the Software.
***
*** The Pennsylvania State University grants, free of charge, to 
*** any users the right to modify, copy, and 
*** redistribute the Software, both within the user's 
*** organization and externally, subject to the following 
*** restrictions:
***
*** 1. The users agree not to charge for the code itself but may 
*** charge for additions, extensions, or support.
***
*** 2. In any product based on the Software, the users agree to 
*** acknowledge the The Pennsylvania State University's 
*** Integrated Circuits and Devices Lab (ICDL) Research Group 
*** that developed the software. This acknowledgment shall 
*** appear in the product documentation.
***
*** 3. The users agree to obey all U.S. Government restrictions 
*** governing redistribution or export of the software.
***
*** 4. The users agree to reproduce any copyright notice which 
*** appears on the software on any copy or modification of such 
*** made available to others.
***
*** Agreed to by 
*** Sumeet Kumar Gupta, The Pennsylvania State University
*** October 28, 2015
*************************************************************

.LIB fefet

.include './FE_PARAMS22.inc'

.global fe_init_n fe_init_p fe_en_V fe_en_V2 fe_en_I

.param T_quart_Pinit_FE='0.1*rho_FE/abs(alpha_FE)'
.param pvdd_Pinit_FE=pvdd

.param cref='0.025f'

.param gwf='0.15'


Vfe_init_n fe_init_n 0 pwl 0 0 'T_quart_Pinit_FE' '1*pvdd_Pinit_FE' '2*T_quart_Pinit_FE' 0
Vfe_init_p fe_init_p 0 pwl 0 0 'T_quart_Pinit_FE' '-1*pvdd_Pinit_FE' '2*T_quart_Pinit_FE' 0 
Vfe_en_V fe_en_V 0 pwl 0 0  '2*T_quart_Pinit_FE' 0 '3*T_quart_Pinit_FE' 1
***
Vfe_en_V2 fe_en_V2 0 pwl 0 0  '4*T_quart_Pinit_FE' 0 '5*T_quart_Pinit_FE' 1
***
Vfe_en_I fe_en_I 0 pwl 0 0  '2*T_quart_Pinit_FE' 0 '3.5*T_quart_Pinit_FE' 1 '4*T_quart_Pinit_FE' 1

.param lambda1_FE='8e-11'
.param lambda2_FE='8e-11'
.param epsm1_FE=50
.param epsm2_FE=50 
.param lambda1_FE=8e-11 
.param lambda2_FE=8e-11 
.param Tm1_FE=10e-9 
.param Tm2_FE=10e-9


.subckt FEcap_LK n1 n2 Wz='toxfe_dev' Wy='w_dev' Wx='lg_dev' alpha='alpha_FE' beta='beta_FE' gamma='gamma_FE' rho='rho_FE' epsm1='epsm1_FE' epsm2='epsm2_FE' lambda1='lambda1_FE' lambda2='lambda2_FE' Tm1='Tm1_FE' Tm2='Tm2_FE'

* SUBCKT for Ferroelectric Capacitor
* Wx and Wy form the cross-sectional area and Wz is along the direction of the dielectric thickness

.param eps0='8.85e-12'

.param Pc_par = 'sqrt((sqrt(9*beta*beta-20*alpha*gamma)-3*beta)/(10*gamma))'
.param Ec_par = '(2*beta*Pc_par^3+4*gamma*Pc_par^5)'


* Normalize E with respect to Ec and P with respect to Pc

.param alpha_n = 'alpha*Pc_par/Ec_par'
.param beta_n = 'beta*Pc_par*Pc_par*Pc_par/Ec_par'
*.param gamma_n = 'gamma*Pc_par*Pc_par*Pc_par*Pc_par*Pc_par/Ec_par'
.param gamma_n = '-1-alpha_n-beta_n'
.param C0_par = 'eps0*Wx*Wy/Wz'
.param R_rho = 'rho*Wz/(Wx*Wy)'

.param screen_factor1 = 'exp(-Tm1/lambda1)'
.param lambda1_eff = 'lambda1-Tm1*screen_factor1/(1-screen_factor1)'

.param screen_factor2 = 'exp(-Tm2/lambda2)'
.param lambda2_eff = 'lambda2-Tm2*screen_factor2/(1-screen_factor2)'

.param Cdp_par1 = 'eps0*epsm1*Wx*Wy/lambda1_eff'
.param Cdp_par2 = 'eps0*epsm2*Wx*Wy/lambda2_eff'

*.param Cdp_par1 = 'eps0*epsm1*Wx*Wy/lambda1_eff'
*.param Cdp_par2 = 'eps0*epsm2*Wx*Wy/lambda2_eff'


****************************************************************************
* LK module: Terminals: n1_FEcap, n2
EEeff Eeff 0 VOL='V(n1_FEcap,n2_met)/(Wz*Ec_par)'
EPn Pn_ 0 VOL='(1/alpha_n)*(V(Eeff)-V(fb))'
Vpn_z Pn_ Pn 0
Efb fb 0 VOL='beta_n*V(Pn)*V(Pn)*V(Pn)+gamma_n*V(Pn)*V(Pn)*V(Pn)*V(Pn)*V(Pn)'
*****************************************************************************

* FE cap modeled as charge
CFE_LK n1_FEcap n2_met q='Wx*Wy*(Pc_par*V(Pn))'
RFE_LK n1_FEr n2_FEr R_rho
Vdum_LK n2_FEr n1_FEcap 0
C0 n1_vac n2_met C0_par
Vdum_vac n1_FEr n1_vac 0
Vdum_tot n1_met n1_FEr 0

*Modeling depolarization field
Cdp_1 n1 n1_met Cdp_par1
Cdp_2 n2 n2_met Cdp_par2

*Edebug_q debug_q 0 VOL='Wx*Wy*(Pc_par*V(Pn))'
*Ecdp debug_cdp 0 VOL= 'eps0*epsm1*Wx*Wy/lambda1_eff'
*EVdp debug_Vdp 0 VOL='V(n1, n1_met)'
*Eqcal debug_qcal 0 VOL='V(debug_cdp)*V(debug_Vdp)'

* To obtain Eapp
*EEapp Eapp 0 VOL='V(n1,n2)/(Wz*Ec_par)'
*EEapp_FE Eapp_FE 0 VOL='V(n1_met,n2_met)/(Wz*Ec_par)'

.ends

.subckt nfefet d g s b sw l=lg_dev Tfe='Toxfe_dev' a_par='const_a' w_par='const_w'

E_init_g init_g 0 VOL='V(fe_init_n)'
E_en_V en_V 0 VOL='V(fe_en_V)'
E_en_I en_I 0 VOL='V(fe_en_I)'

Edb db 0 VOL='V(d)-V(b)'
Egb_app gb_app 0 VOL='V(g)-V(b)'
Esb sb 0 VOL='V(s)-V(b)'

Egb gb 0 VOL='(1-V(en_V))*V(init_g)+V(en_V)*V(gb_app)'

XFE gb gb_int FEcap_LK Wz='Tfe' Wy='a_par' Wx='l' alpha='alpha_FE' beta='beta_FE' gamma='gamma_FE' rho='rho_FE' 
+ epsm1='epsm1_FE' epsm2='epsm2_FE' lambda1='lambda1_FE' lambda2='lambda2_FE' Tm1='Tm1_FE' Tm2='Tm2_FE'
XM db_ gb_int_ sb_ ngnd_ nfet w='w_par' l='l'

Vdummy_Ig gb_int gb_int_ 0
Vdummy_Id db db_ 0
Vdummy_Is sb sb_ 0
Vdummy_Ib 0 ngnd_ 0

Gswitch gb_int 0 VCR PWL(1) sw 0 0v,1e17 1v,0.1m

G_g g 0 CUR='V(en_I)*I(Vdummy_Ig)'
G_b b 0 CUR='V(en_I)*I(Vdummy_Ib)'
G_s s 0 CUR='V(en_I)*I(Vdummy_Is)'
G_d d 0 CUR='V(en_I)*I(Vdummy_Id)'

.ends

.subckt nfefetgw d g s b sw l=lg_dev Tfe='Toxfe_dev' a_par='const_a' w_par='const_w' lcap='lcap_par' gwf_2dfefet='gwf'

Vdummy_Ig g g_ pwl 0 0 

XFE g_ g_int FEcap_LK Wz='Tfe' Wy='a_par' Wx='lcap' alpha='alpha_FE' beta='beta_FE' gamma='gamma_FE' rho='rho_FE' 
+ epsm1='epsm1_FE' epsm2='epsm2_FE' lambda1='lambda1_FE' lambda2='lambda2_FE' Tm1='Tm1_FE' Tm2='Tm2_FE'

Vdummy_Ig1 g_int_ g_int pwl 0 0 '100p' '0' '200p' 'gwf_2dfefet'

XM d_ g_int_ s_ b_ nfet w='w_par' 
 
Vdummy_Id d d_ 0
Vdummy_Is s s_ 0
Vdummy_Ib b b_ 0

Gswitch g_int 0 VCR PWL(1) sw 0 0v,1e17 1v,0.1m

.ends


.subckt pfefet d g s b w=w_dev l=lg_dev Tfe='Toxfe_dev' 

E_init_g init_g 0 VOL='V(fe_init_p)'
E_en_V en_V 0 VOL='V(fe_en_V)'
E_en_I en_I 0 VOL='V(fe_en_I)'

Edb db 0 VOL='V(d)-V(b)'
Egb_app gb_app 0 VOL='V(g)-V(b)'
Esb sb 0 VOL='V(s)-V(b)'

Egb gb 0 VOL='(1-V(en_V))*V(init_g)+V(en_V)*V(gb_app)'

XFE gb gb_int FEcap_LK Wz='Tfe' Wy='w' Wx='l' alpha='alpha_FE' beta='beta_FE' gamma='gamma_FE' rho='rho_FE' 
+ epsm1='epsm1_FE' epsm2='epsm2_FE' lambda1='lambda1_FE' lambda2='lambda2_FE' Tm1='Tm1_FE' Tm2='Tm2_FE'
XM db_ gb_int_ sb_ ngnd_ pfet w='w' lg='l'

Vdummy_Ig gb_int gb_int_ 0
Vdummy_Id db db_ 0
Vdummy_Is sb sb_ 0
Vdummy_Ib 0 ngnd_ 0

G_g g 0 CUR='V(en_I)*I(Vdummy_Ig)'
G_b b 0 CUR='V(en_I)*I(Vdummy_Ib)'
G_s s 0 CUR='V(en_I)*I(Vdummy_Is)'
G_d d 0 CUR='V(en_I)*I(Vdummy_Id)'

.ends

.subckt pfefinfet d g s b nfin=no_of_fins_dev l=lg_dev Tfe='Toxfe_dev' 

E_init_g init_g 0 VOL='V(fe_init_p)'
E_en_V en_V 0 VOL='V(fe_en_V)'
E_en_I en_I 0 VOL='V(fe_en_I)'

Edb db 0 VOL='V(d)-V(b)'
Egb_app gb_app 0 VOL='V(g)-V(b)'
Esb sb 0 VOL='V(s)-V(b)'

Egb gb 0 VOL='(1-V(en_V))*V(init_g)+V(en_V)*V(gb_app)'

XFE gb gb_int FEcap_LK Wz='Tfe' Wy='nfin*(2*fin_height_fet+fin_width_fet)' Wx='l' alpha='alpha_FE' beta='beta_FE' gamma='gamma_FE' rho='rho_FE' 
+ epsm1='epsm1_FE' epsm2='epsm2_FE' lambda1='lambda1_FE' lambda2='lambda2_FE' Tm1='Tm1_FE' Tm2='Tm2_FE'
XM db_ gb_int_ sb_ ngnd_ pfet nfin='nfin' lg='l'

Vdummy_Ig gb_int gb_int_ 0
Vdummy_Id db db_ 0
Vdummy_Is sb sb_ 0
Vdummy_Ib 0 ngnd_ 0

G_g g 0 CUR='V(en_I)*I(Vdummy_Ig)'
G_b b 0 CUR='V(en_I)*I(Vdummy_Ib)'
G_s s 0 CUR='V(en_I)*I(Vdummy_Is)'
G_d d 0 CUR='V(en_I)*I(Vdummy_Id)'

.ends

.subckt nfefinfet d g s b nfin=no_of_fins_dev l=lg_dev Tfe='Toxfe_dev' wf_par='0.0'

Vwf g g_ 'wf_par'

E_init_g_ init_g_ 0 VOL='V(fe_init_n)'
E_en_V en_V 0 VOL='V(fe_en_V)'
E_en_V2 en_V2 0 VOL='V(fe_en_V2)'
E_en_I en_I 0 VOL='V(fe_en_I)'

Edb_app db_app 0 VOL='V(d)-V(b)'
Eg_b_app g_b_app 0 VOL='V(g_)-V(b)'
Esb_app sb_app 0 VOL='V(s)-V(b)'

Edb db 0 VOL='V(en_V)*V(db_app)'
Esb sb 0 VOL='V(en_V)*V(sb_app)'
Eg_b g_b 0 VOL='V(en_V2)*V(g_b_app)'


XFE g_b g_b_int FEcap_LK Wz='Tfe' Wy='nfin*(2*fin_height_fet+1*fin_width_fet)' Wx='l' alpha='alpha_FE' beta='beta_FE' gamma='gamma_FE' rho='rho_FE' 
+ epsm1='epsm1_FE' epsm2='epsm2_FE' lambda1='lambda1_FE' lambda2='lambda2_FE' Tm1='Tm1_FE' Tm2='Tm2_FE'
XM db_ g_b_int_ sb_ ngnd_ nfet nfin='nfin' l='l'

Vdummy_Ig_ g_b_int g_b_int_ 0
Vdummy_Id db db_ 0
Vdummy_Is sb sb_ 0
Vdummy_Ib 0 ngnd_ 0

G_g_ g_ 0 CUR='V(en_I)*I(Vdummy_Ig_)'
G_b b 0 CUR='V(en_I)*I(Vdummy_Ib)'
G_s s 0 CUR='V(en_I)*I(Vdummy_Is)'
G_d d 0 CUR='V(en_I)*I(Vdummy_Id)'

.ends

.subckt DnFinFETs d g g1 s b sw a_par=const_a b_par=const_b l=lg_dev Tfe='Toxfe_dev' Tfe1='Toxfe_dev'

Cpar g g1 'cref'

E_init_g_ init_g_ 0 VOL='V(fe_init_n)'
E_en_V en_V 0 VOL='V(fe_en_V)'
E_en_V2 en_V2 0 VOL='V(fe_en_V2)'
E_en_I en_I 0 VOL='V(fe_en_I)'

Edb_app db_app 0 VOL='V(d)-V(b)'
Eg_b_app g_b_app 0 VOL='V(g)-V(b)'
Eg1_b_app g1_b_app 0 VOL='V(g1)-V(b)'
Esb_app sb_app 0 VOL='V(s)-V(b)'

Edb db 0 VOL='V(en_V)*V(db_app)'
Esb sb 0 VOL='V(en_V)*V(sb_app)'
Egb gb 0 VOL='V(en_V2)*V(g_b_app)'
Eg1b g1b 0 VOL='V(en_V)*V(g1_b_app)'


XFE gb gb_int FEcap_LK Wz='Tfe' Wy='a_par' Wx='l/1' alpha='1*alpha_FE' beta='1*beta_FE' gamma='gamma_FE/1' rho='rho_FE' 
+ epsm1='epsm1_FE' epsm2='epsm2_FE' lambda1='lambda1_FE' lambda2='lambda2_FE' Tm1='Tm1_FE' Tm2='Tm2_FE'

XFE1 g1b g1b_int FEcap_LK Wz='Tfe1' Wy='b_par' Wx='l/1' alpha='1*alpha_FE' beta='1*beta_FE' gamma='gamma_FE/1' rho='rho_FE*1' 
+ epsm1='epsm1_FE' epsm2='epsm2_FE' lambda1='lambda1_FE' lambda2='lambda2_FE' Tm1='Tm1_FE/1' Tm2='Tm2_FE/1'

*************
XM db_ gb_int_ sb_ ngnd_ nfet w='a_par+b_par+33n' l='l'

Vdummy_Ig gb_int gb_int_ 0.0
Vdummy_Id db db_ 0
Vdummy_Is sb sb_ 0
Vdummy_Ib 0 ngnd_ 0

Vdummy_Ig1 g1b_int gb_int_ 0

Gswitch gb_int 0 VCR PWL(1) sw 0 0v,1e17 1v,0.1m

G_g g 0 CUR='V(en_I)*I(Vdummy_Ig)'
G_b b 0 CUR='V(en_I)*I(Vdummy_Ib)'
G_s s 0 CUR='V(en_I)*I(Vdummy_Is)'
G_d d 0 CUR='V(en_I)*I(Vdummy_Id)'

G_g1 g1 0 CUR='V(en_I)*I(Vdummy_Ig1)'


.ends

.subckt DnFinFET d g g1 s b nfin=no_of_fins_dev nfina=no_of_fins_dev nfinb=no_of_fins_dev l=lg_dev Tfe='Toxfe_dev' Tfe1='Toxfe_dev'

E_init_g_ init_g_ 0 VOL='V(fe_init_n)'
E_en_V en_V 0 VOL='V(fe_en_V)'
E_en_V2 en_V2 0 VOL='V(fe_en_V2)'
E_en_I en_I 0 VOL='V(fe_en_I)'

Edb_app db_app 0 VOL='V(d)-V(b)'
Eg_b_app g_b_app 0 VOL='V(g)-V(b)'
Eg1_b_app g1_b_app 0 VOL='V(g1)-V(b)'
Esb_app sb_app 0 VOL='V(s)-V(b)'

Edb db 0 VOL='V(en_V)*V(db_app)'
Esb sb 0 VOL='V(en_V)*V(sb_app)'
Egb gb 0 VOL='V(en_V2)*V(g_b_app)'
Eg1b g1b 0 VOL='V(en_V)*V(g1_b_app)'


XFE gb gb_int FEcap_LK Wz='Tfe' Wy='nfina*(2*fin_height_fet+1*fin_width_fet)' Wx='l/1' alpha='1*alpha_FE' beta='1*beta_FE' gamma='gamma_FE/1' rho='rho_FE' 
+ epsm1='epsm1_FE' epsm2='epsm2_FE' lambda1='lambda1_FE' lambda2='lambda2_FE' Tm1='Tm1_FE' Tm2='Tm2_FE'

XFE1 g1b g1b_int FEcap_LK Wz='Tfe1' Wy='nfinb*(2*fin_height_fet+1*fin_width_fet)' Wx='l/1' alpha='1*alpha_FE' beta='1*beta_FE' gamma='gamma_FE/1' rho='rho_FE*1' 
+ epsm1='epsm1_FE' epsm2='epsm2_FE' lambda1='lambda1_FE' lambda2='lambda2_FE' Tm1='Tm1_FE/1' Tm2='Tm2_FE/1'

*************

XM db_ gb_int_ sb_ ngnd_ nfet nfin='nfin' l='1*l'


Vdummy_Ig gb_int gb_int_ 0.0
Vdummy_Id db db_ 0
Vdummy_Is sb sb_ 0
Vdummy_Ib 0 ngnd_ 0

Vdummy_Ig1 g1b_int gb_int_ 0

G_g g 0 CUR='V(en_I)*I(Vdummy_Ig)'
G_b b 0 CUR='V(en_I)*I(Vdummy_Ib)'
G_s s 0 CUR='V(en_I)*I(Vdummy_Is)'
G_d d 0 CUR='V(en_I)*I(Vdummy_Id)'

G_g1 g1 0 CUR='V(en_I)*I(Vdummy_Ig1)'


.ends

.subckt DpFinFET d g g1 s b nfin=no_of_fins_dev l=lg_dev Tfe='Toxfe_dev' Tfe1='Toxfe_dev'

E_init_g init_g 0 VOL='V(fe_init_n)'
E_en_V en_V 0 VOL='V(fe_en_V)'
E_en_I en_I 0 VOL='V(fe_en_I)'

Edb db 0 VOL='V(d)-V(b)'
Egb_app gb_app 0 VOL='V(g)-V(b)'
Esb sb 0 VOL='V(s)-V(b)'

Egb gb 0 VOL='(1-V(en_V))*V(init_g)+V(en_V)*V(gb_app)'

E_init_g1 init_g1 0 VOL='V(fe_init_n)'

Eg1b_app g1b_app 0 VOL='V(g1)-V(b)'

Eg1b g1b 0 VOL='(1-V(en_V))*V(init_g1)+V(en_V)*V(g1b_app)'

XFE gb gb_int FEcap_LK Wz='Tfe' Wy='(4*fin_height_fet+2*fin_width_fet)' Wx='l/1' alpha='1*alpha_FE' beta='1*beta_FE' gamma='gamma_FE/1' rho='rho_FE' 
+ epsm1='epsm1_FE' epsm2='epsm2_FE' lambda1='lambda1_FE' lambda2='lambda2_FE' Tm1='Tm1_FE' Tm2='Tm2_FE'

XFE1 g1b gb1_int FEcap_LK Wz='Tfe1' Wy='(2*fin_height_fet+1*fin_width_fet)' Wx='l/1' alpha='1*alpha_FE' beta='1*beta_FE' gamma='gamma_FE/1' rho='rho_FE*1' 
+ epsm1='epsm1_FE' epsm2='epsm2_FE' lambda1='lambda1_FE' lambda2='lambda2_FE' Tm1='Tm1_FE/1' Tm2='Tm2_FE/1'


XM db_ gb_int_ sb_ ngnd_ pfet nfin='nfin' lg='1*l'


Vdummy_Ig gb_int gb_int_ 0.0
Vdummy_Id db db_ 0
Vdummy_Is sb sb_ 0
Vdummy_Ib 0 ngnd_ 0

Vdummy_Ig1 gb1_int gb_int_ 0


G_g g 0 CUR='V(en_I)*I(Vdummy_Ig)'
G_b b 0 CUR='V(en_I)*I(Vdummy_Ib)'
G_s s 0 CUR='V(en_I)*I(Vdummy_Is)'
G_d d 0 CUR='V(en_I)*I(Vdummy_Id)'

G_g1 g1 0 CUR='V(en_I)*I(Vdummy_Ig1)'


.ends


.endl fefet



